US07582633B2
Step 3: 1-[5-(1H-Tetrazol-5-yl)pyrimidin-2-yl]piperidin-4-ol
A mixture of 2-(4-hydroxypiperidin-1-yl)pyrimidine-5-carbonitrile (2 g, 9.79 mmol), sodium azide (0.955 g, 14.69 mmol) and ammonium chloride (1.048 g, 19.59 mmol) in DMF (24.48 mL) was heated at 130° C. for 1 h. The mixture was cooled to RT, diluted with 1N NaOH (5 mL), washed Et2O (2×10) mL. The aqueous layer was acidified to pH about 1 with 2 N HCl and placed in the refrigerator for 1 h. The solid was filtered and washed with water followed by Et2O. The solid was dried under high vacuum to afford the title compound.

reactant | 2-(4-hydroxypiperidin-1-yl)pyrimidine-5-carbonitrile | 9.79 mmol, 2 g | OC1CCN(CC1)C1=NC=C(C=N1)C#N | C10H12N4O
reactant | sodium azide | 14.69 mmol, 0.955 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 19.59 mmol, 1.048 g | [Cl-].[NH4+]
solvent | DMF | 24.48 mL | CN(C)C=O | C3H7NO
solvent | NaOH | 1N, 5 mL | [OH-].[Na+]
product | 1-[5-(1H-Tetrazol-5-yl)pyrimidin-2-yl]piperidin-4-ol | N1N=NN=C1C=1C=NC(=NC1)N1CCC(CC1)O | C10H13N7O
